US07598257B2
The 3-[(2E)-3-(dimethylamino)prop-2-enoyl]benzonitrile (0.600 g, 0.00300 mol) was dissolved in ethanol (20.0 mL, 0.342 mol) and hydrazine (0.56 mL, 0.018 mol) under an atmosphere of nitrogen was stirred at room temperature for 1.5 h. The reaction was concentrated in vacuo to give a dark product which was purified by FCC on silica gel, eluting with ethyl acetate-hexane 1:1 to give 3-(1H-pyrazol-3-yl)benzonitrile as an oil (0.430 g, 84%), LC/MS (M+H)+: 170.

reactant | 3-[(2E)-3-(dimethylamino)prop-2-enoyl]benzonitrile | 0.00300 mol, 0.600 g | CN(/C=C/C(=O)C=1C=C(C#N)C=CC1)C | C12H12N2O
reactant | ethanol | 0.342 mol, 20.0 mL | C(C)O | C2H6O
reactant | hydrazine | 0.018 mol, 0.56 mL | NN | H4N2
product | 3-(1H-pyrazol-3-yl)benzonitrile | 0.430 g, 84% | N1N=C(C=C1)C=1C=C(C#N)C=CC1 | C10H7N3
